US05569768
4,4-dimethyl-2-[2-(1-triisopropylsilylindol-5-yl)-6-methoxyphenyl]-2-oxazoline (8.5 g, 17.8 mmoles) was dissolved in 300 ml of THF. The solution was cooled to 0° C. Tetrabutylammonium fluoride (17.8 mmoles, 178 ml of 1M in THF) was added dropwise. The reaction was stirred at 0°-5° C. for 40 minutes, poured into ice water, and extracted into ether. The organic phase was dried over sodium sulfate, and the solvent was removed. The reaction produced 5.7 g of 4,4-dimethyl-2-[2-(indol-5-yl)-6-methoxyphenyl]-2-oxazoline. (MS)

reactant | 4,4-dimethyl-2-[2-(1-triisopropylsilylindol-5-yl)-6-methoxyphenyl]-2-oxazoline | 17.8 mmoles, 8.5 g | CC1(N=C(OC1)C1=C(C=CC=C1OC)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C | C29H40N2O2Si
reactant | Tetrabutylammonium fluoride | 17.8 mmoles, 1M, 178 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4,4-dimethyl-2-[2-(indol-5-yl)-6-methoxyphenyl]-2-oxazoline | 5.7 g | CC1(N=C(OC1)C1=C(C=CC=C1OC)C=1C=C2C=CNC2=CC1)C | C20H20N2O2
